US04544450
xylene, 390 mls of potassium acetate, 0.6 M acetic acid and 0.87 g of palladium catalyst on carbon (10% Pd) are electrolyzed in a cell without diaphragm having a graphite anode (area 140 cm2), steel cathode, magnetic stirrer and water jacket. The electrolysis is carried out at 18° C. with a current of 1.40 A. After the flow of 4 F/mol of electricity, the content of the cell is filtered and extracted with dichloromethane. The organic phase is washed with a solution of NaHCO3 and dried over MgSO4. After having distilled off the solvent under atmospherical pressure, the liquid is transferred into a microdistillation apparatus in which 4.30 g of unreacted p.xylene are recovered together with 3.41 g of pure 2,5-dimethylphenyl acetate. The molar values of the yield of current and the stoichiometric yields relative to the synthesis of 2,5-dimethylphenyl acetate from p.xylene are thus 12.8% and 51.3%, respectively.

reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | potassium acetate | 390 mls | C(C)(=O)[O-].[K+]
reactant | acetic acid | 0.6 M | C(C)(=O)O | C2H4O2
catalyst | palladium | 0.87 g | [Pd] | Pd
solvent | water | O | H2O
product | 2,5-dimethylphenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)C)C | C10H12O2
